US09193719B2
4-Fluorobenzoyl chloride (2.50 g, 15.77 mmol) was added to a solution of semicarbazide hydrochloride (2.00 g, 17.93 mmol) and sodium bicarbonate (2.50 g, 29.8 mmol) in water (25 mL) and the mixture was stirred at RT for 2 h. The solids were collected by filtration, and washed and dried under suction to obtain a white solid. MS (ESI) m/z: 198.1 (M+H+). The solid was suspended in water (25 mL), treated with sodium hydroxide (1.50 g, 37.5 mmol) and heated at 100° C. for 5 hours. The reaction mixture was cooled in ice bath, acidified with conc. HCl and stirred for 20 min. The solids were collected by filtration. The white solid was stirred in acetonitrile filtered, washed and dried to provide 3-(4-fluorophenyl)-1H-1,2,4-triazol-5(4H)-one (1.1 g, 38.9% yield) as white solid. 1H NMR (400 MHz, DMSO-d6): δ 12.03 (s, 1H), 11.65 (s, 1H), 7.81 (m, 2H), 7.31 (m, 2H); MS (ESI) m/z: 180.1 (M+H+).

reactant | 4-Fluorobenzoyl chloride | 15.77 mmol, 2.50 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | semicarbazide hydrochloride | 17.93 mmol, 2.00 g | Cl.NNC(=O)N
reactant | sodium bicarbonate | 29.8 mmol, 2.50 g | C([O-])(O)=O.[Na+]
reactant | sodium hydroxide | 37.5 mmol, 1.50 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | water | 25 mL | O | H2O
solvent | water | 25 mL | O | H2O
product | 3-(4-fluorophenyl)-1H-1,2,4-triazol-5(4H)-one | 1.1 g, 38.9% yield | FC1=CC=C(C=C1)C1=NNC(N1)=O | C8H6FN3O
